US05869485
0.7 g of 5-(4-benzyloxy-3-methylphenyl)-7-[3-(2-chloro-1-ethoxy)phenyl]-4-aminopyrrolo-[2,3-d]pyrimidine and 0.2 g of imidazolyl sodium are heated to 80° C. in 30 ml of DMF and the mixture is stirred for 5 h. It is then cooled to RT and concentrated. After chromatography on silica gel, 5-(4-benzyloxy-3-methylphenyl)-7-[3-(2-(1-imidazolyl)ethoxy)phenyl]-4-amino-pyrrolo[2,3-d]pyrimidine having an m.p. of 158°-160° C. is obtained.

reactant | 5-(4-benzyloxy-3-methylphenyl)-7-[3-(2-chloro-1-ethoxy)phenyl]-4-aminopyrrolo-[2,3-d]pyrimidine | 0.7 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C1=CN(C=2N=CN=C(C21)N)C2=CC(=CC=C2)OCCCl)C | C28H25ClN4O2
reactant | imidazolyl sodium | 0.2 g | N1C(=NC=C1)[Na]
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 5-(4-benzyloxy-3-methylphenyl)-7-[3-(2-(1-imidazolyl)ethoxy)phenyl]-4-amino-pyrrolo[2,3-d]pyrimidine | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C1=CN(C=2N=CN=C(C21)N)C2=CC(=CC=C2)OCCN2C=NC=C2)C | C31H28N6O2
